US09119398B2
Tert-butyl-3-(hydroxymethylene)-2-oxo-4,6a-dihydro-3aH-cyclopenta[b]pyrrole-1-carboxylate II-1
A solution of tert-butyl-3-(dimethylaminomethylene)-2-oxo-4,6a-dihydro-3aH-cyclopenta[b]pyrrole-1-carboxylate III-1 (120 mg, 0.43 mmol) in dioxane (9 mL) was stirred with hydrochloric acid (2 M, 0.86 mL, 1.72 mmol) for 15 h at room temperature. The solution was diluted with ethyl acetate, washed with water and brine, dried, concentrated giving the desired compound as a colorless oil (101 mg, 93%); 1H NMR (400 MHz, CDCl3) 9.92 (1H, d), 7.05 (1H, d), 6.91 (1H, m), 5.71 (1H, m), 5.07 (1H, d), 3.46 (1H, dt), 2.87 (1H, dd), 2.31 (1H, m), 1.55 (9H, s). LCMS (Method A): 0.79 min; ES−250 (M−H+).

reactant | tert-butyl-3-(dimethylaminomethylene)-2-oxo-4,6a-dihydro-3aH-cyclopenta[b]pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C2C(C(C1=O)=CN(C)C)CC=C2 | C15H22N2O3
reactant | hydrochloric acid | 1.72 mmol, 2 M, 0.86 mL | Cl | ClH
reactant | dioxane | 9 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl-3-(hydroxymethylene)-2-oxo-4,6a-dihydro-3aH-cyclopenta[b]pyrrole-1-carboxylate | 101 mg, 93% | C(C)(C)(C)OC(=O)N1C2C(C(C1=O)=CO)CC=C2 | C13H17NO4
